US06503949B1
To 3-methylsulfonyl-4-trifluoromethoxyaniline (2.0 mmol, 500 mg) dissolved in ethyl acetate (6 ml) was added 3N HCl in ethyl acetate (5 ml) followed by concentration in vacuo. The residue was treated with toluene (3×5 mL) and each time concentrated in vacuo. To the residue was added toluene (10 mL) and trichloromethyl chloroformate (6 mmol, 0.73 mL), and under a N2atmosphere the suspension was gently refluxed for 2 hours at 120° C. Additional trichloromethyl chloroformate (6 mmol, 0.73 mL) was added and refluxing was continued overnight. The reaction mixture was concentrated in vacuo to afford 3-methylsulfonyl-4-trifluoromethoxyphenyl isocyanate.

reactant | 3-methylsulfonyl-4-trifluoromethoxyaniline | 2.0 mmol, 500 mg | CS(=O)(=O)C=1C=C(N)C=CC1OC(F)(F)F | C8H8F3NO3S
reactant | HCl | 3N | Cl | ClH
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | trichloromethyl chloroformate | 6 mmol, 0.73 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | trichloromethyl chloroformate | 6 mmol, 0.73 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-methylsulfonyl-4-trifluoromethoxyphenyl isocyanate | CS(=O)(=O)C=1C=C(C=CC1OC(F)(F)F)N=C=O | C9H6F3NO4S
